US08071592B2
2,7-bis(methoxy)-1,5-naphthyridine (7.45 g, 39.210 mmol) stirred in glacial acetic acid (100 ml) at rt under argon, was treated with 33% HBr in acetic acid (100 ml). After stirring at rt for 18 h, the solvents were evaporated under reduced pressure (copious fumes of HBr were produced). The orange solid residue was stirred with water (ca. 250 ml) and the pH of the suspension was adjusted to ca. pH 6 by addition of solid sodium hydrogen carbonate. The mixture was then filtered and dried in a vacuum desiccator over P2O5 overnight to give 7-(methoxy)-1,5-naphthyridin-2(1H)-one as an off-white solid (5.958 g, 86%).

reactant | 2,7-bis(methoxy)-1,5-naphthyridine | 39.210 mmol, 7.45 g | COC1=NC2=CC(=CN=C2C=C1)OC | C10H10N2O2
reactant | HBr | Br | BrH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 7-(methoxy)-1,5-naphthyridin-2(1H)-one | 5.958 g, 86% | COC1=CN=C2C=CC(NC2=C1)=O | C9H8N2O2
